2143-01-10 03:54:00 Physician Attending Progress Note
Chief Complaint: pneumonia, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25W in drug detox - overdosed on hydroxyzine while there and
   transferred here for 24 hours and returned to detox. While she was here
   she was diagnosed with pna and returned to [**Hospital1 **] within hours with
   hypoxemia.
   In ER 101.8, RR 26, POX 86% on RA. Given vanco and CTX, had already
   received levoflox. She apparently had visitors in the ER and went to
   bathroom and returned very somnolent - concern that she used heroine.
   24 Hour Events:
   History obtained from housestaff
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   asthma
   IVDU
   septic arthritis - left knee
   osteoneccrosis
   hepC
   sPTX, s/p VATS, blebectomy
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Cough, Dyspnea
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2143-1-10**] 03:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 106 (106 - 118) bpm
   BP: 108/65(75) {108/65(75) - 131/83(90)} mmHg
   RR: 18 (18 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   0.7
   19
        [image002.jpg]
   Other labs: Eos:5, Lactic Acid:2.3
   Fluid analysis / Other labs: tox + methadone
   Imaging: CXR R>L infiltrates
   Microbiology: pending
   Assessment and Plan
   pneumonia, asthma flare - continue abx - vanco + zosyn, azthro for
   [**Last Name (LF) 9251**], [**First Name3 (LF) 124**] try to collect sputum and nasal swab - cover with
   tamiflu for now. treat with prednisone, nebs
   polysubstance abuse, psychiatric disease - continue outpaitent regimen
   altered mental status - repeat tox screen, follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-1-9**] 11:46 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-01-10 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -refused NFS
   -urine tox negative except for methadone
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Albuterol 0.083% Neb Soln 3. Albuterol 0.083% Neb Soln 4. Azithromycin
   5. Docusate Sodium
   6. Fluticasone-Salmeterol Diskus (250/50) 7. FoLIC Acid 8. Gabapentin
   9. Heparin 10. Ibuprofen
   11. Ipratropium Bromide Neb 12. Methadone 13. Montelukast Sodium 14.
   Multivitamins 15. Oseltamivir
   16. Piperacillin-Tazobactam 17. Piperacillin-Tazobactam 18. PredniSONE
   19. Senna 20. Sodium Chloride 0.9% Flush
   21. Thiamine 22. TraMADOL (Ultram) 23. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt cannot stay awake long enough to answer
   questions.  In general, no pain, knows she is in hospital because of
   her asthma.  Wants tea.
   Flowsheet Data as of  [**2143-1-10**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 115 (96 - 120) bpm
   BP: 105/70(78) {88/46(56) - 131/83(90)} mmHg
   RR: 26 (18 - 49) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: NAD, sleeping slouched over fwd
   HEENT: did not follow commands to assess pupil movt, PERRL but dilated
   in dark
   CV: tachycardic, RR, nl s1s2 no mrg
   Pulm: end expiratory wheezes b/l, most anterior on right
   Abd: +BS, soft NTND
   Ext: no edema
   Labs / Radiology
   398 K/uL
   10.9 g/dL
   236 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   33.9 %
   11.1 K/uL
        [image002.jpg]
                            [**2143-1-10**]  04:11 AM
   WBC
   11.1
   Hct
   33.9
   Plt
   398
   Cr
   0.6
   Glucose
   236
   N93.6, L5.7, M0.7, E0.1, B0.1
   PT 12.3, PTT 32.3, INR 1.0
   Lactate 815 pm 2.3
   Serum tox pending
   Microbiology: [**1-9**], 15 pending
   Assessment and Plan
   25 yo female with past medical history of asthma complicated by
   multiple intubation and IV drug abuse complicated by septic shock and
   septic arthritis. Patient was sent from [**Hospital1 250**] for ED evaluation of
   pneumonia after her oxygen saturation was noted to be low.
   #. Hypoxia, fevers:
   Likely that the two are related in an infectious process such as a
   bacterial pneumonia given associated productive cough, increased WBC
   count, however CXR findings underwhelming compared to previous.
   Additionally could be influenza. Unknown vaccination status, though she
   has not shown for any follow-up appointments from her prior
   hospitalization, so unlikely that she has been vaccinated.  Unclear the
   CXR and CT findings over the years indicate asthma but might represent
   a different underlying chronic lung process such as respiratory
   bronchiolitis.
   - Send sputum sample for culture (not sent yet)
   - Will narrow antibiotics to Levaquin and Ceftriaxone as she has not
   yet failed Levaquin treatment (only on it for day of presentation).
   - retry for Nasopharyngeal swab for influenza DFA and droplet
   precautions pending
   - Treat empirically for influenza with oseltamivir 75 mg [**Hospital1 **]
   - Follow-up blood cultures
   - CT chest
   #. Somnolence: now resolved
   Possible that her somnolence upon arrival was related to a toxic
   ingestion given her past history of drug abuse in conjunction with
   verbal report from ED that patient went to restroom and came back to ED
   room much more somnolent. No association with miosis to strongly
   suggest that an opiate is at fault. She was given 2 mg IV lorazepam in
   the ED and this could have been a hangover effect.
   - Hold all sedating medications including tramadol, benzos, methadone,
   gabapentin until best choices confirmed with psychiatry (Seroquel 25mg
   prn, Clonipin [**Hospital1 **])
   - Closely monitor patient's alertness and do not give POs while sedate
   - Monitor RR once patient falls asleep
   - Ideally, would obtain ABG to assess patient's pCO2 given her
   somnolence; however, patient denies somnolence and strongly refusing
   ABG at this time
   #. Asthma: As above, might have had diagnosis as a child, however lack
   of steroid dependence over recent years and imaging suggest might have
   a different ongoing chronic problem
   [**Name (NI) **] has suboptimal air movement at presentation to the ICU with
   inspiratory and expiratory wheezing and some slight tachypnea. Patient
   reports mild wheezing, though denies dyspnea.
   - Standing ipratropium and albuterol as well as PRN albuterol nebs
   - Prednisone 50mg daily for short course.
   - Continue home monteleukast, advair
   - Notify patient's outpatient pulmonary doctor, [**First Name4 (NamePattern1) 5186**] [**Last Name (NamePattern1) 1152**]
   (fellow), of admission
   #. Opiate addiction:
   - Continue methadone 15 mg daily as mental status allows
   ICU Care
   Nutrition: Regular, though hold POs while somnolent
   Lines: 20 Gauge - [**2143-1-9**] 11:46 PM
   Prophylaxis:
   - DVT ppx with heparin subcutaneous
   - Bowel regimen with docusate and senna
   - Pain management with home regimen of tramadol, ibuprofen, gabapentin
   as long as mental status allows
   Communication:  [**Name (NI) 7195**] [**Name (NI) 10552**], mother, [**Telephone/Fax (1) 10553**]
   Code status: : FULL, sign ICU consent today
   Disposition: : ICU to assure resolution of mental status changes as
   well as monitoring of her hypoxia, CM aware

2143-01-11 07:08:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: Hypoxia
   24 Hour Events:
   - Called [**Hospital1 250**] to confirm that she was not getting extra doses of
   methadone and should be on taper
   - Psych recs: 1:1 sitter, methadone taper per note, seroquel 25mg po
   TID but hold for sedation, and can use Ativan 1mg po TID prn, consider
   gabapentin, would obtain [**Hospital1 587**] records re: prior seizures, return to
   [**Hospital1 250**] when medically stabilized, check TSH
   - Tried to flu swab her but she didn't cooperate well and didn't get a
   good specimen, tried twice
   - Note left in metavision regarding narcotic requests and other
   providers
   - Talked to her outpatient pharmacy who said she was taking seroquel
   50mg [**Hospital1 **] and 100mg qhs so changed to this dose
   - ID provider [**Name (NI) 161**] and stopped by
   - Code purpled at 1:30am for extreme anger/agitation, calmed her down
   and gave extra (50mg) seroquel and 1mg ativan, finally fell asleep at
   3:30am
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Azithromycin - [**2143-1-10**] 06:00 AM
   Vancomycin - [**2143-1-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-11**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 102 (100 - 132) bpm
   BP: 125/82(90) {114/68(83) - 132/101(104)} mmHg
   RR: 34 (16 - 36) insp/min
   SpO2: 95% (89-90% RA this am)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                    900 mL
                  PO:
                  TF:
   IVF:
                                                                    450 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                     30 mL
   Urine:
                                                                  2,100 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: NAD, sleeping in bed
   CV: RRR, nl s1s2 no mrg
   Pulm: Inspiratory wheezes and squeaking bilaterally
   Abd: +BS, soft NT, ND
   Ext: No peripheral edema
   Labs / Radiology
   398 K/uL
   10.9 g/dL
   236 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   33.9 %
   11.1 K/uL
        [image002.jpg]
   Morning labs still pending today
                            [**2143-1-10**]  04:11 AM
   WBC
   11.1
   Hct
   33.9
   Plt
   398
   Cr
   0.6
   Glucose
   236
   Other labs: PT / PTT / INR:12.3/32.3/1.0, Differential-Neuts:93.6 %,
   Lymph:5.7 %, Mono:0.7 %, Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   TSH 0.34
   Urine tox negative except for methadone
   Urinalysis negative, urine hCG negative
   [**2143-1-9**] Blood culture pending
   [**2143-1-10**] Urine culture pending
   CT Chest [**2143-1-10**]: Diffuse ground-glass opacity with areas of
   consolidation and new right lower lobe pneumatoceles are likely
   infectious and may represent PCP [**Name Initial (PRE) 4164**]. Differential diagnosis
   includes pulmonary edema--drug reaction. Stable bilateral upper lobe
   mild bronchiectasis. Severe compression fractures of the vertebral
   bodies are stable. Multiple subpleural blebs.
   Assessment and Plan
   25 yo female with past medical history of asthma complicated by
   multiple intubations and IV drug abuse complicated by septic shock and
   septic arthritis. Patient was sent from [**Hospital1 250**] for ED evaluation of
   pneumonia after her oxygen saturation was noted to be low.
   #. Hypoxia, fevers:  She was admitted for hypoxia in the setting of
   fevers and productive cough and increased WBC count.  CXR was slightly
   worse than previous, but not consistent with bacterial pneumonia as she
   has had these changes previously.  However, being treated for PNA due
   to increased WBC, fevers, infiltrate on CXR.  Had CT chest yesterday
   that shows diffuse ground-glass opacities sparing the periphery that
   could represent chronic infection vs drug-induced lung injury vs other
   chronic process.  Less likely that she has influenza at this point, has
   remained afebrile since presentation.
   - Send sputum sample for culture if possible
   - Will contine original course of Levaquin x 7 days (today is day 3 of
   7 day course) and will switch ceftriaxone to po medication
   (cefpodoxime)
    - Retry for Nasopharyngeal swab for influenza DFA and droplet
   precautions pending, patient was not able to cooperate yesterday
   - Treat empirically for influenza with oseltamivir 75 mg [**Hospital1 **] until
   rules out
   - Follow-up blood cultures
   - FU CT chest final read
   - Would likely benefit from lung biopsy or bronch but feel that this
   would be prohibitively difficult in this patient
   - Will be discussed at conference today
   #. Agitation: Patient being followed by psychiatry and had a Code
   Purple called for extreme agitation, trying to leave AMA, and trying to
   meet her brother who wanted to
bring her something.
  She was not
   capable of articulating the risks of leaving AMA and the psych team
   came to see her.  Additional seroquel and Ativan was given as needed.
   Currently somewhat somnolent, likely due to medications received last
   night.
   - Continue Seroquel 50mg po bid and 100mg po qhs at home dose
   - Continue Ativan 1mg po TID with additional doses as needed for
   agitation
   - Appreciate psych recs, are following
   - Continue 1:1 sitter, needed security sitter overnight last night
   - Consider ECG to look for QT prolongation
   #. Restrictive lung disease: Likely an ongoing chronic problem.
   - Standing ipratropium and albuterol as well as PRN albuterol nebs
   - Prednisone 60mg daily for short course x 5 day course, will taper
   quickly as she may not need this
   - Continue home montelukast, advair
   - Patient's outpatient pulmonary doctor, [**First Name4 (NamePattern1) 5186**] [**Last Name (NamePattern1) 1152**] (fellow),
   notified of admission and will likely visit today
   #. Opiate addiction:
   - Continue methadone taper as recommended by psych.
   - Will give 10mg po today, 5mg po tomorrow, then off
   - Will not give additional narcotics, confirmed with orthopedist and
   dentist
   #. Knee pain: Has a history of septic arthritis in the left knee and
   multiple total knee replacements.  Currently knee does not appear
   infected and patient moving comfortably around her room.
   - Continue tramadol, Tylenol, ibuprofen, and gabapentin for pain
   - Avoid narcotics
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  None
   Lines: 20 Gauge - [**2143-1-10**] 07:17 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments: Docusate/Senna
   Communication:  Comments: [**Name (NI) 7195**] [**Name (NI) 10552**], mother, [**Telephone/Fax (1) 10553**]
   Code status: Full code, still does not have ICU consent
   Disposition: Will need to stay here today pending full workup of lung
   disease

2143-01-11 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Difficult night - demanding meds, Code Purple, c/o pain, wanting to
   leave
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Azithromycin - [**2143-1-10**] 06:00 AM
   Vancomycin - [**2143-1-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-1-11**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Delirious, Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine,
   possible influenza
   Signs or concerns for abuse
   Pain: [**1-26**] Minimal
   Flowsheet Data as of  [**2143-1-11**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 110 (100 - 125) bpm
   BP: 109/67(76) {109/67(76) - 132/89(99)} mmHg
   RR: 24 (24 - 36) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                    900 mL
                  PO:
                  TF:
   IVF:
                                                                    450 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    690 mL
   Urine:
                                                                  2,100 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , Crackles : scattered pops and snaps,
   No(t) Bronchial: , Wheezes : few insp, Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, bilat
   knee replacement
   Skin:  Warm, Rash: erosions from obsessive rubbing, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   398 K/uL
   236 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   33.9 %
   11.1 K/uL
        [image002.jpg]
                            [**2143-1-10**]  04:11 AM
   WBC
   11.1
   Hct
   33.9
   Plt
   398
   Cr
   0.6
   Glucose
   236
   Other labs: PT / PTT / INR:12.3/32.3/1.0, Differential-Neuts:93.6 %,
   Lymph:5.7 %, Mono:0.7 %, Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 .H/O ANXIETY
 URINARY TRACT INFECTION (UTI)
   She is very difficult.  Her psychiatric dis makes it difficult to
   evaluate her respiratory dis and sx.  I am underwhelmed by the evidence
   for asthma playing a role now.  She primarily has interstitial lung dis
   and is unlikely to be steroid responsive. Will discuss at conference.
   Psyche and Public Safety are helping us evaluate and manage her
   behavior.  Has not been able to tolerate nasal lavage so we do not yet
   know if she truly has influenza.  Prognosis is very poor.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-1-10**] 07:17 PM
   Prophylaxis:
   DVT: (Refuses)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   No one to sign consent - Mother inebriated, [**Name2 (NI) **] is unable to
   consent
   Code status:
   Disposition :ICU
   Total time spent: 45 minutes

2143-01-12 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ortho consulted, knee tapped but not septic
   -flu neg, tamiflu stopped
   -needs f/u ID appt with [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 10583**] in 4 weeks
   -ordered for 5 mg methadone in am (this should be last dose of taper)
   -faxed request to [**Hospital1 587**] for records, but nothing faxed back yet
   -psych left long list of mostly useless recommendations.  Did say to
   use prn haldol rather than standing ativan, which we did with pretty
   good effect.
   -consensus from pulmonary conference regarding her CT is that she has
   bad lung disease and it's unlikely we can do anything about it...
   -gave tums for heartburn
   - had 2 loose stool so held colace
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Azithromycin - [**2143-1-10**] 06:00 AM
   Vancomycin - [**2143-1-10**] 08:00 AM
   Levofloxacin - [**2143-1-11**] 11:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-1-11**] 07:48 AM
   Lorazepam (Ativan) - [**2143-1-11**] 02:44 PM
   Morphine Sulfate - [**2143-1-11**] 02:44 PM
   Other medications:
   Acetaminophen 3. Albuterol 0.083% Neb Soln 4. Albuterol 0.083% Neb Soln
   5. Calcium Carbonate
   6. CeftriaXONE 7. Docusate Sodium 8. Famotidine 9.
   Fluticasone-Salmeterol Diskus (250/50) 10. FoLIC Acid
   11. Gabapentin 12. Haloperidol 13. Heparin 14. Ibuprofen 15.
   Ipratropium Bromide Neb 16. Levofloxacin
   17. Lidocaine 1% 18. Lorazepam 19. Lorazepam 20. Lorazepam 21.
   Methadone 22. Montelukast Sodium
   23. Morphine Sulfate 24. Multivitamins 25. Nicotine Patch 26.
   Phenazopyridine 27. PredniSONE 28. Quetiapine Fumarate
   29. Quetiapine Fumarate 30. Senna 31. Sodium Chloride 0.9% Flush 32.
   Thiamine 33. TraMADOL (Ultram)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 94 (94 - 123) bpm
   BP: 127/107(111) {109/67(76) - 146/107(111)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 92%
   Height: 60 Inch
                  Total In:
                                                                  1,320 mL
                                                                  1,080 mL
   PO:
                                                                  1,320 mL
                                                                  1,080 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    700 mL
   Urine:
                                                                  2,040 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    550 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   424 K/uL
   9.8 g/dL
   98 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.9 mEq/L
   20 mg/dL
   105 mEq/L
   145 mEq/L
   30.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2143-1-10**]  04:11 AM
                            [**2143-1-12**]  04:07 AM
   WBC
   11.1
   16.3
   Hct
   33.9
   30.0
   Plt
   398
   424
   Cr
   0.6
   0.8
   Glucose
   236
   98
   Other labs:, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Cdiff 12//19 negative
   Knee fluid ctx [**1-11**] pending
   Flu [**1-11**] negative
   Urine [**1-11**], 17 pending
   Blood 12/16 pending
                                                                     2:51p
   _______________________________________________________________________
   Source: Kneeleft
                                 Joint Fluid
                                  Chemistry
                                    Protein
                                     2.7
                                    Glucose
                                     115
                                      LDH
   Source: Kneeleft
     Joint Fluid
                                      WBC
                                     175
                                      RBC
                                   [**Numeric Identifier 10584**]
                                     Poly
                                     95
                                     Lymph
                                      4
                                     Mono
                                      1
                                      EOs
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 .H/O ANXIETY
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   25 yo female with past medical history of asthma complicated by
   multiple intubations and IV drug abuse complicated by septic shock and
   septic arthritis. Patient was sent from [**Hospital1 250**] for ED evaluation of
   pneumonia after her oxygen saturation was noted to be low.
   #. Hypoxia, fevers:  She was admitted for hypoxia in the setting of
   fevers and productive cough and increased WBC count.  CXR was slightly
   worse than previous, but not consistent with bacterial pneumonia as she
   has had these changes previously.  However, being treated for PNA due
   to increased WBC, fevers, infiltrate on CXR.  Had CT chest yesterday
   that shows diffuse ground-glass opacities sparing the periphery that
   could represent chronic infection vs drug-induced lung injury vs other
   chronic process.  Less likely that she has influenza at this point, has
   remained afebrile since presentation.
   - Send sputum sample for culture if possible
   - Will contine original course of Levaquin x 7 days (today is day 3 of
   7 day course) and will switch ceftriaxone to po medication
   (cefpodoxime)
    - Retry for Nasopharyngeal swab for influenza DFA and droplet
   precautions pending, patient was not able to cooperate yesterday
   - Treat empirically for influenza with oseltamivir 75 mg [**Hospital1 **] until
   rules out
   - Follow-up blood cultures
   - FU CT chest final read
   - Would likely benefit from lung biopsy or bronch but feel that this
   would be prohibitively difficult in this patient
   - Will be discussed at conference today
   #. Agitation: Patient being followed by psychiatry and had a Code
   Purple called for extreme agitation, trying to leave AMA, and trying to
   meet her brother who wanted to
bring her something.
  She was not
   capable of articulating the risks of leaving AMA and the psych team
   came to see her.  Additional seroquel and Ativan was given as needed.
   Currently somewhat somnolent, likely due to medications received last
   night.
   - Continue Seroquel 50mg po bid and 100mg po qhs at home dose
   - Continue Ativan 1mg po TID with additional doses as needed for
   agitation
   - Appreciate psych recs, are following
   - Continue 1:1 sitter, needed security sitter overnight last night
   - Consider ECG to look for QT prolongation
   #. Restrictive lung disease: Likely an ongoing chronic problem.
   - Standing ipratropium and albuterol as well as PRN albuterol nebs
   - Prednisone 60mg daily for short course x 5 day course, will taper
   quickly as she may not need this
   - Continue home montelukast, advair
   - Patient's outpatient pulmonary doctor, [**First Name4 (NamePattern1) 5186**] [**Last Name (NamePattern1) 1152**] (fellow),
   notified of admission and will likely visit today
   #. Opiate addiction:
   - Continue methadone taper as recommended by psych.
   - Will give 10mg po today, 5mg po tomorrow, then off
   - Will not give additional narcotics, confirmed with orthopedist and
   dentist
   #. Knee pain: Has a history of septic arthritis in the left knee and
   multiple total knee replacements.  Currently knee does not appear
   infected and patient moving comfortably around her room.
   - Continue tramadol, Tylenol, ibuprofen, and gabapentin for pain
   - Avoid narcotics
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  None
   Lines:
   22 Gauge - [**2143-1-11**] 08:00 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments: Docusate/Senna
   Communication:  Comments: [**Name (NI) 7195**] [**Name (NI) 10552**], mother, [**Telephone/Fax (1) 10553**]
   Code status: Full code, still does not have ICU consent
   Disposition: Will need to stay here today pending full workup of lung
   disease

2143-01-12 10:58:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25yo F with
   24 Hour Events:
 Arthrocentesis of R knee w/o evidence of infection
Flu swab negative and tamiflu stopped
   History obtained from Patient
   Allergies:
   Magnesium
   Anaphylaxis; Ra
   Latex
   Anaphylaxis;
   Salicylate
   Unknown;
   Benzocaine
   Methemoglobinem
   Last dose of Antibiotics:
   Azithromycin - [**2143-1-10**] 06:00 AM
   Vancomycin - [**2143-1-10**] 08:00 AM
   Levofloxacin - [**2143-1-11**] 11:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2143-1-11**] 02:44 PM
   Morphine Sulfate - [**2143-1-11**] 02:44 PM
   Famotidine (Pepcid) - [**2143-1-12**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-12**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 120 (94 - 123) bpm
   BP: 126/74(88) {123/73(85) - 146/107(111)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 92%
   Height: 60 Inch
                  Total In:
                                                                  1,320 mL
                                                                  1,560 mL
   PO:
                                                                  1,320 mL
                                                                  1,560 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    700 mL
   Urine:
                                                                  2,040 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    550 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                    860 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   424 K/uL
   98 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.9 mEq/L
   20 mg/dL
   105 mEq/L
   145 mEq/L
   30.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2143-1-10**]  04:11 AM
                            [**2143-1-12**]  04:07 AM
   WBC
   11.1
   16.3
   Hct
   33.9
   30.0
   Plt
   398
   424
   Cr
   0.6
   0.8
   Glucose
   236
   98
   Other labs: PT / PTT / INR:12.3/32.3/1.0, Differential-Neuts:93.6 %,
   Lymph:5.7 %, Mono:0.7 %, Eos:0.1 %, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
 Restrictive lung disease/Asthma/Hypoxemia
   - unclear what underlying lung disease is currently
   - will change to oral antibiotics today - cefpodoxime/levofloxacin
   - now on day 4 of oral steroids, no plan for taper
   - counseled on tobacco cessation
 Psychiatric Disease/Agitation/Behavoiral disorder
   - on seroquel/ativan and prn haldol
   - sitter and security when necessary, not currently requiring
 Opiod abuse
   - discontinuing methadone after today's dose
   - plan for transfer back to [**Hospital1 250**]
 Leukocytosis
   - likely due to steroids, no other signs of worsening infection
   - culture if spikes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-1-11**] 08:00 AM
   Prophylaxis:
   DVT: (ambulating)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 30 minutes